US09428528B2
Step 3 Preparation of 2-Methyl-propane-2-sulfinic acid [2-cyano-1-(5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-ethyl]-amide
To a stirred solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (0.312 g, 0.758 mmol) and 2-Methyl-propane-2-sulfinic acid [1-(5-bromo-pyridin-2-yl)-2-cyano-ethyl]-amide (0.25 g, 0.758 mmol) in toluene:Ethanol:water (10:10:10 mL) is added Na2CO3 (0.16 g, 1.515 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 15 minutes followed by addition of Pd(PPh3)4 (0.087 g, 0.076 mmol). Resulting reaction mixture is heated to 80° C. for 3 hours. Solvent is evaporated in vacuo then diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 50% ethyl acetate in hexane to afford the title compound (0.21 g): 1H-NMR (400 MHz, DMSO-d6) δ: 1.19 (s, 9H), 1.53 (s, 3H), 1.60 (S, 3H), 2.98-3.04 (m, 1H), 3.17-3.22 (m, 1H), 4.54-4.58 (m, 0.5H), 4.66-4.70 (m, 1H), 4.78-4.84 (m, 1.5H), 4.89-4.95 (m, 1H), 5.26-5.27 (m, 1H), 6.12 (d, J=9 Hz, 1H), 6.64 (t, J=52.4 Hz, 1H), 7.53-7.64 (m, 2H), 7.76 (d, J=8.2 Hz, 1H), 7.82 (d, J=8.12 Hz, 2H), 8.89 (d, J=1.84 Hz, 1H), 8.86 (d, J=2.08 Hz, 1H). LC-MS (m/z): [M+H]=537.2.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 0.758 mmol, 0.312 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | 2-Methyl-propane-2-sulfinic acid [1-(5-bromo-pyridin-2-yl)-2-cyano-ethyl]-amide | 0.758 mmol, 0.25 g | BrC=1C=CC(=NC1)C(CC#N)NS(=O)C(C)(C)C | C12H16BrN3OS
reactant | Na2CO3 | 1.515 mmol, 0.16 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene Ethanol water | 10 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd(PPh3)4 | 0.076 mmol, 0.087 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methyl-propane-2-sulfinic acid [2-cyano-1-(5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-ethyl]-amide | 0.21 g | C(#N)CC(C1=NC=C(C=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF)NS(=O)C(C)(C)C | C26H31F3N4O3S
